US04086219
(e) L-Tryptophyl-L-seryl-L-tyrosyl-D-asparaginyl-L-leucine methyl ester
Nα -Benzyloxycarbonyl-L-tryptophyl-L-seryl-L-tyrosyl-D-asparaginyl-L-leucine methyl ester, 3.75 g. is dissolved in 200 ml. of absolute methanol, 375 mg. of 20% palladium-on-carbon added and the material reduced with hydrogen during 50 minutes. The catalyst is removed by filtration and the filtrate evaporated under reduced pressure; 1.83 g. The catalyst is extracted with 400 ml. of boiling methanol, separated by filtration and the filtrate evaporated to yield 1.22 g. of additional product.

reactant | Nα -Benzyloxycarbonyl-L-tryptophyl-L-seryl-L-tyrosyl-D-asparaginyl-L-leucine methyl ester | COC([C@@H](NC([C@H](NC([C@@H](NC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CNC2=CC=CC=C12)=O)CO)=O)CC1=CC=C(C=C1)O)=O)CC(N)=O)=O)CC(C)C)=O | C42H51N7O11
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | L-Tryptophyl-L-seryl-L-tyrosyl-D-asparaginyl-L-leucine methyl ester | COC([C@@H](NC([C@H](NC([C@@H](NC([C@@H](NC([C@@H](N)CC1=CNC2=CC=CC=C12)=O)CO)=O)CC1=CC=C(C=C1)O)=O)CC(N)=O)=O)CC(C)C)=O | C34H45N7O9
